US07338959B2
(4-{4-[(1-Ethyl-2-methylamino-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl)-methanesulfonamide hydrochloride
The title compound was prepared following the procedure of Example 1 with N5-(2-Chloro-pyrimidin-4-yl)-1-ethyl-N2,N5-dimethyl-1H-benzoimidazole-2,5-diamine (79 mg, 0.25 mmol) and (4-amino-phenyl)-methanesulfonamide (46 mg, 0.25 mmol) as a white solid (110 mg, 88%). 1H NMR (300 MHz, d6-DMSO) δ 9.24 (s, 1H), 7.81 (d, J=6.0 Hz, 1H), 7.74 (m, 3H), 7.36 (d, J=8.1 Hz, 1H), 7.17-7.20 (M, 3H), 6.96 (d, J=8.4 Hz, 1H), 6.78 (s, 2H), 5.70 (d, J=6.0 Hz, 1H), 4.09-4.16 (m, 4H), 3.45 (s, 3H), 2.97 (d, J=4.5 Hz, 3H), 1.24 (t, J=6.9 Hz, 3H) ppm. MS (ESI) m/z=467 [M+H]+.

reactant | N5-(2-Chloro-pyrimidin-4-yl)-1-ethyl-N2,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 79 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC)CC)C=C1)C | C15H17ClN6
reactant | (4-amino-phenyl)-methanesulfonamide | 0.25 mmol, 46 mg | NC1=CC=C(C=C1)CS(=O)(=O)N | C7H10N2O2S
product | (4-{4-[(1-Ethyl-2-methylamino-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl)-methanesulfonamide hydrochloride | Cl.C(C)N1C(=NC2=C1C=CC(=C2)N(C2=NC(=NC=C2)NC2=CC=C(C=C2)CS(=O)(=O)N)C)NC | InChI=1S/C22H26N8O2S.ClH/c1-4-30-19-10-9-17(13-18(19)27-22(30)24-2)29(3)20-11-12-25-21(28-20)26-16-7-5-15(6-8-16)14-33(23,31)32;/h5-13H,4,14H2,1-3H3,(H,24,27)(H2,23,31,32)(H,25,26,28);1H
